US07700628B2
To a stirred solution of 2-acetoxy-4-fluorobenzoic acid (852 mg, 4.9 mmol) in dry dichloromethane (40 mL) under dry nitrogen were added sequentially dry DMF (8 drops), dry pyridine (0.5 mL) and oxalyl chloride (0.5 mL). After stirring 1.5 h at room temperature, the reaction mixture was evaporated to dryness to afford 2-acetoxy-4-fluoro-benzoyl chloride.

reactant | 2-acetoxy-4-fluorobenzoic acid | 4.9 mmol, 852 mg | C(C)(=O)OC1=C(C(=O)O)C=CC(=C1)F | C9H7FO4
reactant | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
reactant | oxalyl chloride | 0.5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
catalyst | DMF | 8 drops | CN(C)C=O | C3H7NO
product | 2-acetoxy-4-fluoro-benzoyl chloride | C(C)(=O)OC1=C(C(=O)Cl)C=CC(=C1)F | C9H6ClFO3
